US04855292
To 3-(t-butoxycarbonylamino)-1-benzyl-4-methylpyrrolidine (3.9 g) are added ethanol (50 ml) and 10% Pd-C (780 mg), and the mixture is subjected to catalytic reduction at 60° C. under atmospheric pressure. After the catalytic reduction, the catalyst is removed off by filtration, and the filtrate is concentrated. The resulting residue is recrystallized from ethyl acetate-petroleum ether to give 3-(t-butoxycarbonylamino)-4-methylpyrrolidine (isomer A) (2.01 g), as colorless prisms, m.p. 86.8°-87° C.

reactant | 3-(t-butoxycarbonylamino)-1-benzyl-4-methylpyrrolidine | 3.9 g | C(C)(C)(C)OC(=O)NC1CN(CC1C)CC1=CC=CC=C1 | C17H26N2O2
catalyst | Pd-C | 780 mg | [Pd] | Pd
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-(t-butoxycarbonylamino)-4-methylpyrrolidine | C(C)(C)(C)OC(=O)NC1CNCC1C | C10H20N2O2
